### PR TITLE
Adding lemmas about EVM state and addresses

### PR DESCRIPTION
**Pull request by Coda-Coda**
@jkopanski asked me to make a series of pull requests bringing in work from the `erc20` branch that is applicable more generally. This one adds lemmas about the EVM state and addresses.

All except one of these pull requests should be able to be merged in any order.

I have tested that `lake build` succeeds.

### CODE REVIEW

File: Clear/EVMState.lean [hunk 1]
```diff
@@ -28,19 +28,110 @@ def ByteArray.byteArrayToUInt256 (μ₀ : UInt256) (size : ℕ) (Id : ByteArray)
...
+
+lemma top_le_size : top ≤ size := le_of_lt top_lt_size
+
+lemma size_lt_UInt256_size : size < UInt256.size := by decide
+lemma size_le_UInt256_size : size ≤ UInt256.size := le_of_lt size_lt_UInt256_size
+
+lemma top_lt_UInt256_size : top < UInt256.size := by decide
+lemma top_le_UInt256_size : top ≤ UInt256.size := le_of_lt top_lt_UInt256_size
+
+lemma ofUInt256_lt_UInt256_size {u : UInt256} : ↑(ofUInt256 u) < UInt256.size := by
```
Comment (Julek) [inline Clear/EVMState.lean:97]: Shorted version that doesn't use open `simp`s:
```
lemma ofUInt256_lt_UInt256_size {u : UInt256} : ↑(ofUInt256 u) < UInt256.size := by
  unfold ofUInt256 Fin.ofNat
  trans (2 ^ 160)
  · simp only [UInt256.size, Nat.reducePow, Nat.reduceAdd, gt_iff_lt, Nat.ofNat_pos, Nat.mod_lt]
  · simp only [Nat.reducePow, UInt256.size, Nat.reduceLT]
  ```

Comment (Julek) [reply Clear/EVMState.lean:97]: In general, we have a strong preference for only using open `simp`s as a closing tactic.

**Review by Julek — CHANGES_REQUESTED** [review]
See comments
